US05037835
2-(4-Amino-3-pyridinyl)-1,2,3,4-tetrahydroisoquinoline-N-oxide
To a slurry of PtO2 (0.3 g) in 10 ml of ethanolwas added 2-(4-nitro-3-pyridinyl)-1,2,3,4-tetrahydroisoquinoline, N-oxide (5.0 g) in 240 ml of ethanol and this was hydrogenated with a Parr apparatus at room temperature for 24 hours. The mixture was filtered and the filtrate concentrated to yield an oil (5.1 g), which was eluted with 20% methanol/DCM on a silica gel column via HPLC. The desired fractions were concentrated to a solid (2.0 g), m.p. 216°-219° C. (decomp). This solid was recrystallized from acetonitrile to yield a solid, 1.0 g, m.p. 217°-219° C.

reactant | 2-(4-nitro-3-pyridinyl)-1,2,3,4-tetrahydroisoquinoline | [N+](=O)([O-])C1=C(C=NC=C1)N1CC2=CC=CC=C2CC1 | C14H13N3O2
reactant | ethanol | 240 ml | C(C)O | C2H6O
catalyst | PtO2 | 0.3 g | O=[Pt]=O
product | 2-(4-Amino-3-pyridinyl)-1,2,3,4-tetrahydroisoquinoline-N-oxide | 5.1 g | NC1=C(C=NC=C1)[N+]1(CC2=CC=CC=C2CC1)[O-] | C14H15N3O
